US05451601
254.5 g of potassium carbonate and 654 cm3 of 1,3-dibromopropane are added to a solution of 153 g of methyl (2-hydroxyphenyl)acetate in 1400 cm3 of acetonitrile. The suspension obtained is refluxed for 20 hours, cooled to 20° C. and then filtered The filtrate is concentrated to dryness at 50° C. under reduced pressure. The residue is chromatographed on a silica gel column (particle size 0.04-0.06 mm, diameter 8.8 cm, height 43 cm), eluting under a nitrogen pressure of 0.5 bar with a cyclohexane and ethyl acetate mixture (95/5 by volume) and collecting fractions of 300 cm3. Fractions 18 to 53 are pooled and concentrated to dryness under reduced pressure (2.7 kPa). 130.6 g of methyl 2-(3-bromopropoxy)phenylacetate are obtained in the form of an orange-coloured oil.

reactant | potassium carbonate | 254.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-dibromopropane | 654 cm3 | BrCCCBr | C3H6Br2
reactant | methyl (2-hydroxyphenyl)acetate | 153 g | OC1=C(C=CC=C1)CC(=O)OC | C9H10O3
solvent | acetonitrile | 1400 cm3 | C(C)#N | C2H3N
product | methyl 2-(3-bromopropoxy)phenylacetate | 130.6 g | BrCCCOC1=C(C=CC=C1)CC(=O)OC | C12H15BrO3
